US09107916B2
D. 2-[4-ethyl-5-[(4-fluorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(4-ethyl-5-hydroxypyrazol-1-yl)pyridine-4-carbonitrile and 4-fluorobenzyl alcohol according to the procedure for the preparation of Example 39, part C. [M+H] Calc'd for C18H15FN4O, 323. Found, 323.

reactant | 2-(4-ethyl-5-hydroxypyrazol-1-yl)pyridine-4-carbonitrile | C(C)C=1C=NN(C1O)C1=NC=CC(=C1)C#N | C11H10N4O
reactant | 4-fluorobenzyl alcohol | FC1=CC=C(CO)C=C1 | C7H7FO
product | 2-[4-ethyl-5-[(4-fluorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | C(C)C=1C=NN(C1OCC1=CC=C(C=C1)F)C1=NC=CC(=C1)C#N | C18H15FN4O
